US09388195B2
A) Production of tert-butyl(2S)-2-(6-bromo-4-oxo-3,4-dihydrothieno[3,2-d]pyrimidin-2-yl)-4-piperidin-1-ylpyrrolidine-1-carboxylate
In the same manner as in Example 11, step A, tert-butyl(2S)-2-[(5-bromo-2-carbamoylthiophen-3-yl)carbamoyl]-4-piperidin-1-ylpyrrolidine-1-carboxylate was obtained as a pale-brown amorphous solid (132 mg) from 3-amino-5-bromothiophene-2-carboxamide (200 mg) produced in Example 1, step D and 1-(tert-butoxycarbonyl)-4-piperidin-1-yl-L-proline (270 mg) and O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (413 mg) and N-ethyl-N-(1-methylethyl)propan-2-amine (0.316 mL) and N,N-dimethylformamide (5.0 mL). To tert-butyl(2S)-2-[(5-bromo-2-carbamoylthiophen-3-yl)carbamoyl]-4-piperidin-1-ylpyrrolidine-1-carboxylate produced above were added 2M aqueous sodium hydroxide solution (0.52 mL) and ethanol (1.0 mL), and the mixture was stirred at 70° C. for 2 hr. The reaction system was neutralized with 1M hydrochloric acid at 0° C. The mixture was extracted with ethyl acetate, and the mixture was washed with brine, and dried over anhydrous sodium sulfate. Insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (63 mg) as a pale-brown amorphous solid.

reactant | tert-butyl(2S)-2-[(5-bromo-2-carbamoylthiophen-3-yl)carbamoyl]-4-piperidin-1-ylpyrrolidine-1-carboxylate | BrC1=CC(=C(S1)C(N)=O)NC(=O)[C@H]1N(CC(C1)N1CCCCC1)C(=O)OC(C)(C)C | C20H29BrN4O4S
reactant | sodium hydroxide | 2M, 0.52 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethanol | 1.0 mL | C(C)O | C2H6O
product | tert-butyl(2S)-2-(6-bromo-4-oxo-3,4-dihydrothieno[3,2-d]pyrimidin-2-yl)-4-piperidin-1-ylpyrrolidine-1-carboxylate | 63 mg | BrC1=CC=2N=C(NC(C2S1)=O)[C@H]1N(CC(C1)N1CCCCC1)C(=O)OC(C)(C)C | C20H27BrN4O3S
